US06875765B2
To a solution of 3-(2-naphthalen-1-yl-ethoxy)-4-nitro-benzamide (0.500 g, 1.48 mmol) in 75 mL of tetrahydrofuran at room temperature was added Raney Nickel (0.50 g). The reaction was pressurized to 50 psi of hydrogen for 18 hours. The reaction was then filtered through celite and washed with tetrahydrofuran. The filtrate was then concentrated in vacuo to dryness to yield 4-amino-3-(2-naphthalen-1-yl-ethoxy)-benzamide 455 mg (100%) of a white solid. 1HNMR(300 MHz, DMSO) 8.26 (d, 1H), 7.99 (d, 1H), 7.98 (d,1H), 7.68(m, 5H), 7.33 (m, 2H), 6.93 (bs, 1H), 6.62 (d, 1H), 4.89 (s, 2H), 5.16 (s, 2H), 4.34 (t, 2H), 3.63 (t, 2H). MS(APCI) m/z 307.1 (M+H).

reactant | 3-(2-naphthalen-1-yl-ethoxy)-4-nitro-benzamide | 1.48 mmol, 0.500 g | C1(=CC=CC2=CC=CC=C12)CCOC=1C=C(C(=O)N)C=CC1[N+](=O)[O-] | C19H16N2O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
catalyst | Raney Nickel | 0.50 g | [Ni] | Ni
product | 4-amino-3-(2-naphthalen-1-yl-ethoxy)-benzamide | 455 mg, 100% | NC1=C(C=C(C(=O)N)C=C1)OCCC1=CC=CC2=CC=CC=C12 | C19H18N2O2
